US08389511B2
[(2R,5R)-5-[[(Benzyloxy)carbonyl](isopropyl)amino]-1-(tert-butoxycarbonyl)piperidin-2-yl]acetic acid
To a solution of tert-butyl (2R,5R)-5-[[(benzyloxy)carbonyl](isopropyl)amino]-2-(2-ethoxy-2-oxoethyl)piperidine-1-carboxylate (8.5 g) in ethanol (100 mL) was added a 2N aqueous sodium hydroxide solution (50 mL), and the mixture was stirred at 50° C. for one hour. The reaction solution was cooled with ice, and thereto was added an aqueous potassium hydrogen sulfate solution in order to adjust the pH value to pH 3. The mixture was extracted with chloroform, and the organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (6.0 g) as a colorless solid.

reactant | tert-butyl (2R,5R)-5-[[(benzyloxy)carbonyl](isopropyl)amino]-2-(2-ethoxy-2-oxoethyl)piperidine-1-carboxylate | 8.5 g | C(C1=CC=CC=C1)OC(=O)N([C@@H]1CC[C@@H](N(C1)C(=O)OC(C)(C)C)CC(=O)OCC)C(C)C | C25H38N2O6
reactant | sodium hydroxide | 2N, 50 mL | [OH-].[Na+]
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | [(2R,5R)-5-[[(Benzyloxy)carbonyl](isopropyl)amino]-1-(tert-butoxycarbonyl)piperidin-2-yl]acetic acid | 6.0 g | C(C1=CC=CC=C1)OC(=O)N([C@@H]1CC[C@@H](N(C1)C(=O)OC(C)(C)C)CC(=O)O)C(C)C | C23H34N2O6
